US04997840
A mixture of 2-(2-nitrophenyl)-2-oxoethyl benzoate (50 g) and ammonium chloride (1 0.75 g) in water (800 ml) was stirred at 90° for 20 minutes. Iron powder (80 g) was added gradually over a period of 20 minutes. The mixture was stirred at 95° for a further 3 hours and filtered hot through diatomaceous earth (sold under the trade name CELITE). The filter bed was washed with hot (80° ) water (100 ml) and then separately with hot (60° ) ethyl acetate (5×300 ml). The aqueous filtrate and aqueous washing were combined and extracted with ethyl acetate (4×400 ml) and the extracts combined with the ethyl acetate washings from above, which had been washed with aqueous sodium chloride (6M, 200 ml). The combined ethyl acetate extracts were dried over sodium sulphate and evaporated to give the novel compound 2-(2-aminophenyl)-2-oxoethyl benzoate, m.p. 125°.

reactant | 2-(2-nitrophenyl)-2-oxoethyl benzoate | 50 g | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C15H11NO5
reactant | ammonium chloride | 0.75 g | [Cl-].[NH4+]
solvent | water | 800 ml | O | H2O
catalyst | Iron | 80 g | [Fe] | Fe
product | 2-(2-aminophenyl)-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)N | C15H13NO3
